US08193199B2
To a stirring heterogeneous mixture of 5-chloro-3-(2-chloro-5-fluorophenyl)-quinoxaline-2-carbaldehyde (0.1650 g, 0.514 mmol) in THF (5.00 mL, 0.514 mmol) was added methylmagnesium bromide 3 M in diethyl ether (0.257 mL, 0.771 mmol) dropwise at 0° C., and the mixture was then allowed to warm to room temperature and stirred at room temperature. After 5.5 h, the reaction was quenched with NH4Cl (50 mL) and extracted with EtOAc (50 mL×2). The combined organic layers were washed with water (50 mL×1), brine (50 mL×1), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 40 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 14 min and then 50% isocratic of EtOAc for 10 min as eluent to give 1-(5-chloro-3-(2-chloro-5-fluorophenyl)quinoxalin-2-yl)ethanol as a solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.17 (1H, dd, J=8.4, 1.4 Hz), 8.09 (1H, dd, J=7.8, 1.2 Hz), 7.88-7.96 (1 H, m), 7.72 (1H, dd, J=9.0, 5.1 Hz), 7.61 (1H, br. s.), 7.44-7.53 (1H, m), 5.36 (1H, d, J=6.3 Hz), 4.83 (1H, br. s.), 1.49 (3H, br. s.); LC-MS (ESI) m/z 337.0 [M+H]+.

reactant | 5-chloro-3-(2-chloro-5-fluorophenyl)-quinoxaline-2-carbaldehyde | 0.514 mmol, 0.1650 g | ClC1=C2N=C(C(=NC2=CC=C1)C=O)C1=C(C=CC(=C1)F)Cl | C15H7Cl2FN2O
reactant | THF | 0.514 mmol, 5.00 mL | C1CCOC1 | C4H8O
reactant | methylmagnesium bromide | 3 M | C[Mg]Br
reactant | diethyl ether | 0.771 mmol, 0.257 mL | C(C)OCC | C4H10O
product | 1-(5-chloro-3-(2-chloro-5-fluorophenyl)quinoxalin-2-yl)ethanol | ClC1=C2N=C(C(=NC2=CC=C1)C(C)O)C1=C(C=CC(=C1)F)Cl | C16H11Cl2FN2O
